US05668157
Step 1: 2,5-Diamino-6-methylpyridine
A mixture of 2-amino-5-nitro-6-methylpyridine (5.42 g, 0.0354 mol) (E. D. Parker and W. Shive, J. Amer. Chem. Soc., 69:63 (1947)), absolute EtOH (150 ml) and 10% palladium-on-carbon catalyst (0.488 g) was hydrogenated at an initial pressure of 40 p.s.i. for 18 hours. The catalyst was removed by filtration through celite and the filtrate was concentrated to give 4.34 g of the titled product.

reactant | 2-amino-5-nitro-6-methylpyridine | 0.0354 mol, 5.42 g | NC1=NC(=C(C=C1)[N+](=O)[O-])C | C6H7N3O2
catalyst | palladium-on-carbon | 0.488 g | [Pd] | Pd
solvent | EtOH | 150 ml | CCO | C2H6O
product | 2,5-Diamino-6-methylpyridine | 4.34 g | NC1=NC(=C(C=C1)N)C | C6H9N3
